US06413938B1
2-Bromo4,5,6-trichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl )-1H-benzimidazole
2-Bromo4,5,6-trichloro-1H-benzimidazole (0.3 g, 1 mmol), acetonitrile (10 mL), and N,O-bis(trimethylsilyl)acetamide were stirred at 70° C. for 15 min., giving a homogeneous solution. To the solution was then added 1,2,3-tri-O-acetyl-5-deoxyribofuranose (0.31 g, 1.2 mmol) in acetonitrile (5 mL) and trimethylsilyltrifluoromethane sulfonate (0.25 mL, 1.3 mmol). The resulting mixture was allowed to stir at 70° C. for 20 min. The mixture was then allowed to cool to RT and was diluted with ethyl acetate and was washed with a saturated aqueous NaHCO3 solution, dried over NaSO4 and the solvents were removed by rotary evaporation. The product was purified by flash chromatography using chloroform as eluent and then recrystallization from methanol afforded 0.29 g (58%) of the title compound as white crystals; m.p. 160-162° C.; 1H NMR (DMSO-d6) δ: 8.14 (s, 1H), 6.16 (d, 1H), 5.63 (t, 1H), 5.27 (dd, 1H), 4.26 (m, 1H), 2.13 (s, 3H), 2.02 (s, 3H), 1.51 (d, 3H).

reactant | 2-Bromo4,5,6-trichloro-1H-benzimidazole | 1 mmol, 0.3 g | BrC1=NC2=C(N1)C=C(C(=C2Cl)Cl)Cl | C7H2BrCl3N2
reactant | N,O-bis(trimethylsilyl)acetamide | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 1,2,3-tri-O-acetyl-5-deoxyribofuranose | 1.2 mmol, 0.31 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | trimethylsilyltrifluoromethane sulfonate | 1.3 mmol, 0.25 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Bromo4,5,6-trichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl )-1H-benzimidazole | 0.29 g, 58% | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C(=C2Cl)Cl)Cl | C16H14BrCl3N2O5
